US06664260B2
Under an atmosphere of nitrogen, 5-methyl-6-[2-(3-pyridin-3-ylpropoxy)ethyl]-6H-imidazo[4,5-c]tetrazolo[1,5-a]quinoline (0.73 g, 1.89 mmol) and triphenylphosphine (0.64 g, 2.84 mmol) were dissolved in 1,2-dichlorobenzene (15 ml). The reaction was heated at reflux for 18 hours. After cooling to ambient temperature, the solvent was removed in vacuo. The resulting residue was treated with 1N HCl/water (30 ml) and vigorous stirring produced an off white suspension. The solid was removed by filtration leaving a yellow filtrate. The filtrate was treated with 10% sodium hydroxide/water until pH 11 was reached. The filtrate was extracted with dichloromethane (3×25 ml). The combined organic fractions were washed with brine (25 ml), dried (Na2SO4), filtered and concentrated in vaeuo to yield an orange oil. The oil was dissolved in a minimum amount of dichloromethane and diluted with ether to produce a precipitate. The solid was recrystallized from n-propyl acetate to yield 0.16 g of 2-methyl-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]quinoline-4-amine as a tan solid, m.p. 145.0-146.0.

reactant | 5-methyl-6-[2-(3-pyridin-3-ylpropoxy)ethyl]-6H-imidazo[4,5-c]tetrazolo[1,5-a]quinoline | 1.89 mmol, 0.73 g | CC=1N(C2=C(C=3N(C4=CC=CC=C24)N=NN3)N1)CCOCCCC=1C=NC=CC1 | C21H21N7O
reactant | triphenylphosphine | 2.84 mmol, 0.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydroxide water | [OH-].[Na+].O
solvent | 1,2-dichlorobenzene | 15 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2-methyl-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]quinoline-4-amine | 0.16 g | CC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCOCCCC=1C=NC=CC1 | C21H23N5O
